datasets/10k_Mayr_OG.csv
SMILES Labelled
"CC(C)(C)[O:33][C:22](/[N:21]=[CH:20]/C1=CC=CC=C1)=[O:23].C[C:11](=[CH2:10])[CH2:62][Ge:63](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1>>CC(C)(C)[O:33][C:22](=[N:21][CH:20](C1=CC=CC=C1)[CH2:10][C+:11](C)[CH2:62][Ge:63](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[O-:23] 10,11=10,20;20,21=21,22;22,23=23"
"C1=CC=C([S:32]([CH:21]=[CH2:20])(=[O:33])=[O:34])C=C1.C[Si:63](C)(C)[O:12][C:11](=[CH2:10])/[CH:72]=[CH:73]/[O:74]C>>C[Si:63](C)(C)[O+:12]=[C:11]([CH2:10][CH2:20][CH-:21][S:32](C1=CC=CC=C1)(=[O:33])=[O:34])/[CH:72]=[CH:73]/[O:74]C 10,11=10,20;12=11,12;20,21=21"
"Br[C:44]1=[CH:43][CH:42]=[C:41](/[CH:20]=[CH:21]/[N+:22](=[O:23])[O-:33])[CH:46]=[CH:45]1.C[O:16][C:15]1=[CH:14][CH:13]=[C:12]([CH:11]([H:10])[C:72]2=[CH:73][CH:74]=[C:75]([O:86]C)[CH:84]=[CH:83]2)[CH:63]=[CH:64]1>>Br[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]([H:10])[CH:21]=[N+:22]([O-:23])[O-:33])[CH:46]=[CH:45]1.C[O+:16]=[C:15]1[CH:14]=[CH:13][C:12](=[CH:11][C:72]2=[CH:73][CH:74]=[C:75]([O:86]C)[CH:84]=[CH:83]2)[CH:63]=[CH:64]1 10,11=10,20;12,13=11,12;14,15=13,14;16=15,16;20,21=21,22;22,23=23"
"C1=CC=C([C:23]2=[CH:22][C:21](=[CH:20][C:41]3=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]3)[CH:32]=[C:33](C3=CC=CC=C3)[C:24]2=[O:25])C=C1.CC[O:82][C:61]([CH-:10][S:71](C1=CC=CC=C1)(=[O:72])=[O:92])=[O:62]>>CC[O:82][C:61]([CH:10]([CH:20]([C:21]1=[CH:22][C:23](C2=CC=CC=C2)=[C:24]([O-:25])[C:33](C2=CC=CC=C2)=[CH:32]1)[C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1)[S:71](C1=CC=CC=C1)(=[O:72])=[O:92])=[O:62] 10=20;20,21=21,22;22,23=23,24;24,25=25"
"CC[O:72][P:61]([CH:10]=[C:11]([O-:12])[O:93]CC)(=[O:62])[O:82]CC.CN1C(=O)C(CC2=CNC3=CC=CC=C23)/[N+:23](=[CH:22]/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C1(C)C>>CC[O:72][P:61]([CH:10]([C:11](=[O:12])[O:93]CC)[CH:20]([CH:21]=[CH:22][N:23]1C(CC2=CNC3=CC=CC=C23)C(=O)N(C)C1(C)C)[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)(=[O:62])[O:82]CC 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"COC1=CC=C([C:61]([CH:10]=[S:11](C)C)=[O:62])C=C1.C[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][C:41]2=[CH:42][CH:43]=[C:44](OC3=CC=CC=C3)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1>>COC1=CC=C([C:61]([CH:10]([S+:11](C)C)[CH:20]([C:31]2=[CH:32][CH:33]=[C:34](C)[CH:35]=[CH:36]2)[C:41]2=[CH:42][CH:43]=[C:44](OC3=CC=CC=C3)[CH:45]=[CH:46]2)=[O:62])C=C1 10,11=10,20"
"C1COC2(CC[C:20](=[O:21])CC2)O1.[CH:10](=[N+:11]([O-:12])[O-:62])[C:71]1=[CH:72][CH:73]=[CH:74][CH:82]=[CH:83]1>>C1COC2(CC[C:20]([CH:10]([N+:11](=[O:12])[O-:62])[C:71]3=[CH:72][CH:73]=[CH:74][CH:82]=[CH:83]3)([O-:21])CC2)O1 10,11=10,20;12=11,12;20,21=21"
"CN1CC[N:14]2CCN(C)[C:62]3=[CH:61][N:10]=[CH:11][C:12]1=[C:13]23.C[O:37][C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][CH:41]=[CH:42][C:53]2=[CH:54][CH:55]=[C:56]([O:59]C)[CH:57]=[CH:58]2)[CH:36]=[CH:35]1>>CN1CC[N+:14]2=[C:13]3[C:12]1=[CH:11][N:10]([CH:20]([C:31]1=[CH:32][CH:33]=[C:34]([O:37]C)[CH:35]=[CH:36]1)[CH:41]=[CH:42][C:53]1=[CH:54][CH:55]=[C:56]([O:59]C)[CH:57]=[CH:58]1)[CH:61]=[C:62]3N(C)CC2 10,11=10,20;12,13=11,12;14=13,14"
"C[N+:23]1=[CH:22]/[C:21](=[CH:20]/[C:31]2=[CH:32][N:33](C)[C:42]3=[C:41]2C=CC=C3)C2=C1C=CC=C2.[NH2:10][NH:61][CH:62]=[O:63]>>C[N:23]1C2=C(C=CC=C2)[C:21]([CH:20]([NH2+:10][NH:61][CH:62]=[O:63])[C:31]2=[CH:32][N:33](C)[C:42]3=[C:41]2C=CC=C3)=[CH:22]1 10=20;20,21=21,22;22,23=23"
"CO[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][CH:43]=[C:44](C)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1.C[C:10](=[C:11]=[N-:12])[C:71]1=[CH:72][CH:73]=[C:74]([C:75]#[N:76])[CH:85]=[CH:84]1>>CO[C:34]1=[CH:33][CH:32]=[C:31]([C:20]([C:10](C)([C:11]#[N:12])[C:71]2=[CH:72][CH:73]=[C:74]([C:75]#[N:76])[CH:85]=[CH:84]2)([C:41]2=[CH:42][CH:43]=[C:44](C)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1 10,11=10,20;12=11,12"
"C12C3C4C5C1[Fe:32]23451678C2C1C6[C:31]7([CH+:20][C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1)C28.CC(C)(C)[C:11](=[CH2:10])[NH:12][C:63](C)=[O:64]>>CC(C)(C)[C:11]([CH2:10][CH:20]([C:31]12C3C4C5C1[Fe:32]45321678C2C1C6C7C28)[C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1)=[NH+:12][C:63](C)=[O:64] 10,11=10,20;12=11,12"
"C1=CC2=C(C=C1)[C:32](=[O:33])[C:21](=[CH:20][C:41]1=[CH:42][C:43]3=[C:44]4N(CCC3)CCC[C:45]4=[CH:46]1)[C:22]2=[O:23].CC[O:82][C:61]([CH-:10][P:71](C1=CC=CC=C1)(C1=CC=CC=C1)=[O:72])=[O:62]>>CC[O:82][C:61]([CH:10]([CH:20]([C:21]1=[C:22]([O-:23])C2=C(C=CC=C2)[C:32]1=[O:33])[C:41]1=[CH:42][C:43]2=[C:44]3N(CCC2)CCC[C:45]3=[CH:46]1)[P:71](C1=CC=CC=C1)(C1=CC=CC=C1)=[O:72])=[O:62] 10=20;20,21=21,22;22,23=23"
"CN1CC[C:20](=[O:21])CC1.[H][B-:11]([H])([H:10])[C:62]#[N:63]>>CN1CC[C:20]([H:10])([O-:21])CC1.[H][B:11]([H])[C:62]#[N:63] 10,11=10,20;20,21=21"
"C1=CC2=C(C=C1)[S:62][C:11]1=[N:10]CC[N:12]21.CC(C)(C)[O:33][C:22](/[N:21]=[CH:20]/C1=CC=CC=C1)=[O:23]>>CC(C)(C)[O:33][C:22](=[N:21][CH:20](C1=CC=CC=C1)[N:10]1CC[N+:12]2=[C:11]1[S:62]C1=C2C=CC=C1)[O-:23] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
